US07067540B2
Ethyl 5-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylate
To a mixture of 3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (0.59 g, 2.07 mmol) and ethyl 5-(bromomethyl)pyrazine-2-carboxylate (0.62 g, 2.4 mmol) in THF (15 mL) was added NaH (0.06 g, 2.4 mmol). The reaction stirred at 60° C. for 3.5 hours. The solvent was removed under reduced pressure and the residue was partitioned over dichloromethane and citric acid (5%). The organic extracts were washed with water and dried over Na2SO4 (anhydrous). The organic extracts were concentrated and the residue was purified by flash column chromatography (100% ethyl acetate). The appropriate fractions were combined and concentrated under reduced pressure to remove solvent. 1H NMR (CD3OD, 400 MHz) δ 9.11 (d, 1H, J=1.6 Hz), 8.77 (s, 1H), 7.52 (m, 1H), 7.02 (m, 2H), 6.57 (s, 1H), 5.53 (s, 2H), 5.30 (s, 2H), 4.49 (q, 2H), 2.52 (s, 3H), 1.39 (t, 3H, J=7.2 Hz); ES-HRMS m/z 450.1045 (M+H calculated for C21H19N3O4ClF2 requires 450.01027).

reactant | 3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 2.07 mmol, 0.59 g | ClC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10ClF2NO2
reactant | ethyl 5-(bromomethyl)pyrazine-2-carboxylate | 2.4 mmol, 0.62 g | BrCC=1N=CC(=NC1)C(=O)OCC | C8H9BrN2O2
reactant | NaH | 2.4 mmol, 0.06 g | [H-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Ethyl 5-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylate | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)OCC)=O | C21H18ClF2N3O4
